US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (300 mg) and piperidine (184 μl) were subjected to similar reations to those described in References 2 and 4 to give 2-piperidinocarbonylthioethylamine (crude formate: 137 mg). The product was dissolved in anhydrous methanol (3 ml). To the solution were added triethylamine (432 μl) and mitomycin A (151 mg: 0.7 molar equivalent). The solution was treated in a similar manner to that described in Example 1 to obtain Compound 42 (0.21 mg) in the form of grayish blue powders with a yield of 74%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 300 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | piperidine | 184 μl | N1CCCCC1 | C5H11N
product | 2-piperidinocarbonylthioethylamine | 137 mg | N1(CCCCC1)C(=O)SCCN | C8H16N2OS
